US08487117B2
Preparation of 5-(2-chloro-4-fluorophenyl)-1-[(1R,2S)-2-hydroxy-1-methylpropyl]-4-methyl-N-[4-(methylsulfonyl)phenyl]-1H-pyrrole-3-carboxamide
To a solution of 5-(2-chloro-4-fluorophenyl)-4-methyl-N-[4-(methylsulfonyl)phenyl]-1H-pyrrole-3-carboxamide (0.50 g, 1.2 mmol) in anhydrous DMA (8.0 ml) was added sodium tert-butoxide (0.27 g, 2.8 mmol) and stirred at room temperature for 30 min under N2. (4S,5S)-4,5-dimethyl-1,3,2-dioxathiolane 2,2-dioxide (0.28 g, 1.8 mmol) in anhydrous DMA (2.0 ml) was added to the solution and stirred at 70° C. for 2.0 h. The reaction mixture was cooled to room temperature and added 2N HCl (2.0 ml) and concentrated on a rotary evaporator. To this residue was added anhydrous THF (4.0 ml) and 5N HCl (5.0 ml) and stirred at 60° C. for 80 min. The mixture was diluted with ethyl acetate and washed with water, satd NaHCO3 and brine, then dried over sodium sulfate and concentrated on a rotary evaporator. The resulting residue was purified by silica-gel column chromatography (3:7 to 2:8 hexane:ethyl acetate) to give an atropisomeric mixture of the title compound (0.29 g, 50%) as a white solid.

reactant | 5-(2-chloro-4-fluorophenyl)-4-methyl-N-[4-(methylsulfonyl)phenyl]-1H-pyrrole-3-carboxamide | 1.2 mmol, 0.50 g | ClC1=C(C=CC(=C1)F)C1=C(C(=CN1)C(=O)NC1=CC=C(C=C1)S(=O)(=O)C)C | C19H16ClFN2O3S
reactant | sodium tert-butoxide | 2.8 mmol, 0.27 g | CC(C)([O-])C.[Na+]
reactant | (4S,5S)-4,5-dimethyl-1,3,2-dioxathiolane 2,2-dioxide | 1.8 mmol, 0.28 g | C[C@@H]1OS(O[C@H]1C)(=O)=O | C4H8O4S
reactant | HCl | 2N, 2.0 ml | Cl | ClH
solvent | DMA | 8.0 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 2.0 ml | CC(=O)N(C)C | C4H9NO
product | 5-(2-chloro-4-fluorophenyl)-1-[(1R,2S)-2-hydroxy-1-methylpropyl]-4-methyl-N-[4-(methylsulfonyl)phenyl]-1H-pyrrole-3-carboxamide | 0.29 g, 50% | ClC1=C(C=CC(=C1)F)C1=C(C(=CN1[C@@H]([C@H](C)O)C)C(=O)NC1=CC=C(C=C1)S(=O)(=O)C)C | C23H24ClFN2O4S
